US04039579
2-[1-(Cyclohexylimino)-2-(methylsulfinyl)ethyl]phenol
A solution of 2'-hydroxy-2-(methylsulfinyl)acetophenone (15 g, 0.076 mole) in cyclohexylamine (75 ml) was stirred at 90° for 6 hrs. The reaction mixture was cooled and poured into petroleum ether (1 l.). The product was filtered off and washed with hexane to give yellow crystals (20.2 g, 96%), mp 133°-134°.

reactant | 2'-hydroxy-2-(methylsulfinyl)acetophenone | 0.076 mole, 15 g | OC1=C(C=CC=C1)C(CS(=O)C)=O | C9H10O3S
reactant | cyclohexylamine | 75 ml | C1(CCCCC1)N | C6H13N
product | 2-[1-(Cyclohexylimino)-2-(methylsulfinyl)ethyl]phenol | 20.2 g, 96% | C1(CCCCC1)N=C(CS(=O)C)C1=C(C=CC=C1)O | C15H21NO2S
